US07008950B1
3-(4-Isopropylphenyl)-5-(4-methoxybenzyloxy)-2,2-dimethyl-2,3-dihydrobenzofuran
Using (4-isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-5-ol and 4-methoxybenzyl chloride, the title compound was obtained in the same manner as in Example 1.

reactant | (4-isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=C(C=C2)O)(C)C | C19H22O2
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 3-(4-Isopropylphenyl)-5-(4-methoxybenzyloxy)-2,2-dimethyl-2,3-dihydrobenzofuran | Yield: 75% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=C(C=C2)OCC2=CC=C(C=C2)OC)(C)C | C27H30O3
